### PR TITLE
perf: speed up kernel typechecking of some of mathlib's slowest declarations

### PR DESCRIPTION
**Pull request by kbuzzard**
This PR changes some of the proofs in mathlib which were slowest to typecheck in the kernel. Typically there is some kind of defeq abuse going on in master, which the elaborator is quick to accept but which the kernel doesn't like, typically resulting in the unfolding of a large amount of stuff. Hopefully all the changes are uncontroversial. The problematic declarations were located with an LLM and changes were also initially written by an LLM but some fixes were complex, and I removed most of these from his PR because they were fiddling with parts of the codebase I didn't know well. I have now gone through everything manually, tidied up, and tested that indeed this is making mathlib quicker in every case.

The added declaration `strictMono_valueGroupEquiv` in `Mathlib/RingTheory/DedekindDomain/AdicValuation.lean` is to tidy up one of the slow proofs.

### CODE REVIEW

**Comment by kbuzzard** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/cded8f6afd0f08463483a2eb71cb9c45c67e0262?reference=b86f7b9ebe47ff9bc2db86b38a6b7f3fac59febb) for cded8f6afd0f08463483a2eb71cb9c45c67e0262 against b86f7b9ebe47ff9bc2db86b38a6b7f3fac59febb are in. There are significant results. @kbuzzard

- ✅ `build//instructions`: **-141.0G** (**-0.09%**)

**Large changes (5✅)**

- ✅ `build/module/Mathlib.Algebra.Category.ModuleCat.Presheaf.PushforwardZeroMonoidal//instructions`: **-74.0G** (**-68.07%**)
- ✅ `build/module/Mathlib.Condensed.Light.Sequence//instructions`: **-34.8G** (**-42.09%**)
- ✅ `build/module/Mathlib.FieldTheory.CardinalEmb//instructions`: **-23.9G** (**-23.72%**)
- ✅ `build/module/Mathlib.LinearAlgebra.CliffordAlgebra.Grading//instructions`: **-18.8G** (**-49.40%**)
- ✅ `build/module/Mathlib.RingTheory.DedekindDomain.AdicValuation//instructions`: **-49.8G** (**-30.81%**)

**Medium changes (4✅)**

- ✅ `build/module/Mathlib.Algebra.Category.ModuleCat.Sheaf.PushforwardContinuous//instructions`: **-21.7G** (**-16.62%**)
- ✅ `build/module/Mathlib.AlgebraicGeometry.Morphisms.UniversallyClosed//instructions`: **-5.7G** (**-28.38%**)
- ✅ `build/module/Mathlib.Analysis.InnerProductSpace.Adjoint//instructions`: **-22.2G** (**-9.20%**)
- ✅ `build/module/Mathlib.RingTheory.Etale.Field//instructions`: **-8.1G** (**-18.51%**)

**Small changes (1✅)**

- ✅ `build/module/Mathlib.AlgebraicGeometry.AffineTransitionLimit//instructions`: **-11.5G** (**-4.90%**)

File: Mathlib/Condensed/Light/Sequence.lean [hunk 1]
```diff
@@ -220,27 +220,39 @@ noncomputable def cocone {X : LightCondMod R} {S T : LightProfinite} (π : T ⟶
...
-          (by simp [pullback.condition]))).val := rfl
-    -- simp? [this, ← Functor.map_comp] says:
-    simp only [this, pair_obj_left, pair_obj_right, BinaryCofan.IsColimit.desc'_coe,
-      IsColimit.fac, BinaryCofan.mk_inr, ← Functor.map_comp,
-      pullback.lift_fst, IsColimit.fac_assoc, assoc,
-      pullback.lift_snd]
-    -- simp? [-Functor.map_comp, ← assoc, hr] says:
-    simp only [← assoc, hr, id_comp, sub_self, zero_add]
-    simp [pullback.condition]
+    -- simp? [hcover, ← Functor.map_comp] says:
```
Comment (kbuzzard) [inline Mathlib/Condensed/Light/Sequence.lean]: I doubt it says that!

Comment (metakunt) [reply Mathlib/Condensed/Light/Sequence.lean]: The ability to make nonsense up is truly unmatched

**Comment by kbuzzard** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/4539b4b426c9268a274578e061252e8a14c28875?reference=3b6f23172a994dc739dfcc974199fe05c44f691d) for 4539b4b426c9268a274578e061252e8a14c28875 against 3b6f23172a994dc739dfcc974199fe05c44f691d are in. There are significant results. @kbuzzard

- ✅ `build//instructions`: **-109.3G** (**-0.08%**)

**Large changes (1✅)**

- ✅ `build/module/Mathlib.RingTheory.DedekindDomain.AdicValuation//instructions`: **-49.0G** (**-35.01%**)

**Medium changes (3✅)**

- ✅ `build/module/Mathlib.Algebra.Category.ModuleCat.Sheaf.PushforwardContinuous//instructions`: **-21.1G** (**-16.96%**)
- ✅ `build/module/Mathlib.Analysis.InnerProductSpace.Adjoint//instructions`: **-22.2G** (**-10.46%**)
- ✅ `build/module/Mathlib.RingTheory.Etale.Field//instructions`: **-8.0G** (**-19.40%**)

File: Mathlib/RingTheory/DedekindDomain/AdicValuation.lean [hunk 2]
```diff
@@ -667,10 +667,16 @@ def valueGroupEquiv :
...
+  map_mul' := by simp [Equiv.setCongr, Equiv.subtypeEquivProp]
 
+-- `rfl` works as a proof but the kernel spends a long time typechecking it.
 @[simp] theorem coe_valueGroupEquiv (a : valueGroup (.ofClass (valuation K v))) :
-    ((valueGroupEquiv K v a : _) : ℤᵐ⁰ˣ) = a := rfl
+    ((valueGroupEquiv K v a : _) : ℤᵐ⁰ˣ) = a := by
+  simp [valueGroupEquiv, Equiv.setCongr, Equiv.subtypeEquivProp]
+
+theorem strictMono_valueGroupEquiv : StrictMono (valueGroupEquiv K v) :=
+  Equiv.strictMono_setCongr (by rw [valueGroup_eq K v])
```
Comment (kbuzzard) [inline Mathlib/RingTheory/DedekindDomain/AdicValuation.lean:679]: (this is just to golf the next proof)
